US08183246B2
(2R)-N-Benzyl-2-{[5-(4-ethylphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-N-methylpropane-1-amine
Add 167 mg (4.18 mmol) sodium hydride (as 60% dispersion in mineral oil) to a solution of 600 mg (3.35 mmol) (2R)-1-[benzyl(methyl)amino]propan-2-ol in 7 ml THF at room temperature. After stirring for ten minutes, add a solution of 1177 mg (3.51 mmol) 4-chloro-5-(4-ethylphenyl)-6-phenylfuro[2,3-d]pyrimidine in 8 ml THF and 62 mg (0.17 mmol) tetra-n-butylammonium iodide. Stir the reaction mixture for 16 h under reflux. After adding water and ethyl acetate, wash the separated organic phase with 1 N hydrochloric acid and satd. sodium chloride solution. Re-extract the aqueous phase with ethyl acetate. Combine the organic phases and dry over sodium sulphate, and filter. Concentrate the filtrate by vacuum evaporation. Take up the residue in cyclohexane/ethyl acetate/dichloromethane and chromatograph on silica gel (solvent: cyclohexane/ethyl acetate 5:1, 2:1, 1:1, then ethyl acetate). 1366 mg (83% of theor.) of the desired product is obtained.

reactant | sodium hydride | 4.18 mmol, 167 mg | [H-].[Na+]
reactant | (2R)-1-[benzyl(methyl)amino]propan-2-ol | 3.35 mmol, 600 mg | C(C1=CC=CC=C1)N(C[C@@H](C)O)C | C11H17NO
reactant | 4-chloro-5-(4-ethylphenyl)-6-phenylfuro[2,3-d]pyrimidine | 3.51 mmol, 1177 mg | ClC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)CC)C2=CC=CC=C2 | C20H15ClN2O
reactant | water | O | H2O
solvent | THF | 7 ml | C1CCOC1 | C4H8O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
catalyst | tetra-n-butylammonium iodide | 0.17 mmol, 62 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R)-N-Benzyl-2-{[5-(4-ethylphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-N-methylpropane-1-amine | C(C1=CC=CC=C1)N(C[C@@H](C)OC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)CC)C2=CC=CC=C2)C | C31H31N3O2
